US08404856B2
Step 1: 3-(3-bromo-5-chlorophenoxy)-2-chloro-4-(trifluoromethyl)pyridine 3A
To a round bottom flask charged with 3-bromo-5-chlorophenol (5.20 g, 25.1 mmol) and potassium carbonate (3.46 g, 25.1 mmol) was added N-methylpyrrolidinone (25 mL). To this suspension under N2 was added 2-chloro-3-fluoro-4-(trifluoromethyl)pyridine (5.00 g, 25.1 mmol) and the reaction mixture was placed in an oil bath at 120° C. After 60 minutes, the reaction mixture was allowed to cool to room temperature at which point, water (100 mL) was added. The mixture was extracted with ethyl acetate (2×100 mL) and the combined organic fractions were washed with brine (3×100 mL), dried (MgSO4), filtered and the solvent was evaporated under reduced pressure. The resulting residue was adsorbed onto silica gel and purified by column chromatography on a pre-packed silica gel Redi Sep 330 gram column, eluting with 0-75% CH2Cl2 in hexanes to yield the title compound. 1H NMR (CDCl3) δ 8.53 (d, J=5.0 Hz, 1H), 7.62 (d, J=5.0 Hz, 1H), 7.29-7.27 (m, 1H), 6.87-6.84 (m, 1H), 6.76-6.73 (m, 1H). FIRMS (M+1)=385.8957.

reactant | 3-bromo-5-chlorophenol | 25.1 mmol, 5.20 g | BrC=1C=C(C=C(C1)Cl)O | C6H4BrClO
reactant | potassium carbonate | 25.1 mmol, 3.46 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-methylpyrrolidinone | 25 mL | CN1C(CCC1)=O | C5H9NO
reactant | 2-chloro-3-fluoro-4-(trifluoromethyl)pyridine | 25.1 mmol, 5.00 g | ClC1=NC=CC(=C1F)C(F)(F)F | C6H2ClF4N
solvent | water | 100 mL | O | H2O
product | 3-(3-bromo-5-chlorophenoxy)-2-chloro-4-(trifluoromethyl)pyridine | BrC=1C=C(OC=2C(=NC=CC2C(F)(F)F)Cl)C=C(C1)Cl | C12H5BrCl2F3NO
